US05354874
A mixture of 8-acetoxy-2,6-dimethyl-2,6-octadien-1-ol (1.81 g, 8.52 mmol) and dihydropyran (1.17 ml, 12.8 mmol) in dichloromethane (6 ml) was stirred, and p-toluenesulfonic acid (40 mg) was added thereto, and the mixture was stirred at room temperature for 30 minutes. After addition of saturated aqueous sodium bicarbonate (30 ml), the product was extracted with hexane/ether (5:1.2) (30 ml). The extract was dried over Na2SO4 and evaporated in vacuo to remove the solvent to give a residue, which was purified with silica gel column chromatography to give 1-acetoxy-8-(2-tetrahydropyranyl)oxy-3,7-dimethyl-2,6-octadiene (2.42 g, 96%).

reactant | 8-acetoxy-2,6-dimethyl-2,6-octadien-1-ol | 8.52 mmol, 1.81 g | C(C)(=O)OCC=C(CCC=C(CO)C)C | C12H20O3
reactant | dihydropyran | 12.8 mmol, 1.17 ml | O1CCCC=C1 | C5H8O
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
catalyst | p-toluenesulfonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-acetoxy-8-(2-tetrahydropyranyl)oxy-3,7-dimethyl-2,6-octadiene | 2.42 g, 96% | C(C)(=O)OCC=C(CCC=C(COC1OCCCC1)C)C | C17H28O4
